US05998433
b) Synthesis of 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride
1-(2-Diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one 0.208 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 1-(2-Diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one | 0.208 g | C(C)N(CC)CC1=CC2=C(CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O)O1 | C29H36N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride | Cl.C(C)N(CC)CC1=CC2=C(CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O)O1 | InChI=1S/C29H36N2O2.ClH/c1-3-30(4-2)21-27-20-26-17-18-31(22-28(26)33-27)29(32)16-15-25-12-8-11-24(19-25)14-13-23-9-6-5-7-10-23;/h5-12,19-20H,3-4,13-18,21-22H2,1-2H3;1H
